US06972287B1
Preparation of 2-Fluoro-4-methoxy-5-nitrobenzoic acid methyl ester
A mixture of sodium metal (1.27 g, 0.055 mol) and MeOH (250 mL) was stirred at 0° C. for 10 minutes. This solution was added to a solution of 2-fluoro-5-nitrobenzoic acid methyl ester (10.0 g, 0.046 mol) in MeOH (250 mL), and the mixture was stirred for 20 minutes at 0° C. to 5° C. The reaction mixture was then allowed to warm to room temperature and stir for 2 hours. The mixture was then filtered to give an off-white precipitate. Recrystallization with CHCl3 (70 ml) yielded an off-white crystalline solid, 1.825 g (0.008 mol, 17%) of the title compound.

reactant | sodium | 0.055 mol, 1.27 g | [Na] | Na
reactant | 2-fluoro-5-nitrobenzoic acid methyl ester | 0.046 mol, 10.0 g | COC(C1=C(C=CC(=C1)[N+](=O)[O-])F)=O | C8H6FNO4
reactant | MeOH | 250 mL | CO | CH4O
reactant | MeOH | 250 mL | CO | CH4O
product | 2-Fluoro-4-methoxy-5-nitrobenzoic acid methyl ester | 0.008 mol, 1.825 g, 17% | COC(C1=C(C=C(C(=C1)[N+](=O)[O-])OC)F)=O | C9H8FNO5
